US06831175B2
6-chloro-5-[(E)-2-pyridin-4-ylvinyl]pyridin-3-amine
A solution of 3-amino-5-bromo-6-chloropyridine (2.0 g, 9.64 mmol), Pd2(dba)3 (440 mg, 0.48 mmol), tri-o-tolylphosphine (438 mg, 1.44 mmol), 4-vinylpyridine (2.08 mL, 19.28 mmol), and triethylamine (4.03 mL, 29 mmol) in DMF (30 mL) was stirred at 100° C. for 15 hours, cooled to room temperature, treated with ethyl acetate (200 mL), washed twice with brine, dried (MgSO4), filtered and concentrated. The residual solid recrystallized from hexanes/dichloromethane to provide desired product (1.86 g, 84%). MS (APCI) m/e 232 (M+H)+.

reactant | 3-amino-5-bromo-6-chloropyridine | 9.64 mmol, 2.0 g | NC=1C=NC(=C(C1)Br)Cl | C5H4BrClN2
reactant | tri-o-tolylphosphine | 1.44 mmol, 438 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-vinylpyridine | 19.28 mmol, 2.08 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | triethylamine | 29 mmol, 4.03 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.48 mmol, 440 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-5-[(E)-2-pyridin-4-ylvinyl]pyridin-3-amine | 1.86 g, 84% | ClC1=C(C=C(C=N1)N)\C=C\C1=CC=NC=C1 | C12H10ClN3
